US05506267
4-[6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoylamino]benzoylglutamic acid
A solution of 4-[6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoylamino]benzoyl-glutamic acid di-t-butyl ester as obtained in Example 60 (275 mg) in trifiuoroacetic acid (2 ml) was stirred at room temperature for 2 hours, after which the solvent was distilled off under reduced pressure, to yield the title compound (207 mg, yield 84%) as a syrup.

reactant | 4-[6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoylamino]benzoyl-glutamic acid di-t-butyl ester | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(CCSCC(COC(CCCCCCCCCCCC1=CC=CC=C1)=O)OC(CCCCCCCCCCCC1=CC=CC=C1)=O)=O)=O)CCC(=O)OC(C)(C)C)=O | C62H92N2O10S
solvent | trifiuoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoylamino]benzoylglutamic acid | 207 mg, yield 84% | C1(=CC=CC=C1)CCCCCCCCCCCC(=O)OC(CSCCC(=O)NC1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)COC(CCCCCCCCCCCC1=CC=CC=C1)=O | C54H76N2O10S
